US06162818
A solution of 1-t-butoxycarbonyl-2,3-dihydro-4-isothiocyanato-7-methylindole (1.70 g; 5.86 mmol) in methylene chloride (10 mL) is slowly added to a solution of ethylenediamine (1.76 g, 29.3 mmol) in methylene chloride (10 mL). After 30 minutes, the solution is washed with four 50-mL portions of aqueous potassium carbonate, dried over anhydrous potassium carbonate, filtered and rotary evaporated to yield an off-white solid. The crude residue is purified via silica gel column chromatography using 10% methanol (ammonium hydroxide treated)/methylene chloride as the eluent. The appropriate fractions are combined and the solvents removed by rotary evaporation to yield 1.92 g of 4-[N'-(2-aminoethyl)thioureido]-1-t-butoxycarbonyl-2,3-dihydro-7-methylindole as a white solid (94% yield).

reactant | 1-t-butoxycarbonyl-2,3-dihydro-4-isothiocyanato-7-methylindole | 5.86 mmol, 1.70 g | C(C)(C)(C)OC(=O)N1CCC2=C(C=CC(=C12)C)N=C=S | C15H18N2O2S
reactant | ethylenediamine | 29.3 mmol, 1.76 g | C(CN)N | C2H8N2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[N'-(2-aminoethyl)thioureido]-1-t-butoxycarbonyl-2,3-dihydro-7-methylindole | 1.92 g, 94% yield | NCCNC(NC1=C2CCN(C2=C(C=C1)C)C(=O)OC(C)(C)C)=S | C17H26N4O2S
